US05478820
2-Dimethylaminocarbonyl-3-nitrobenzoic acid (1 g) was to the allyl ester by a similar method to that described in example 1 for the formation of allyl 3-allyloxy-5-aminobenzoate giving allyl 2-dimethylaminocarbonyl-3-nitrobenzoate (0.88 g). Nmr (DMSO-d6): δ2.45 (s, 3H); 2.97 (s, 3H); 4.79 (dd, 2H); 5.28-5.47 (m, 2H); 5.9-6.1 (m, 1H); 7.81 (t, 1H); 8.28-8.4 (dq, 2H).

reactant | 2-Dimethylaminocarbonyl-3-nitrobenzoic acid | 1 g | CN(C(=O)C1=C(C(=O)O)C=CC=C1[N+](=O)[O-])C | C10H10N2O5
reactant | allyl 3-allyloxy-5-aminobenzoate | C(C=C)OC=1C=C(C(=O)OCC=C)C=C(C1)N | C13H15NO3
product | allyl 2-dimethylaminocarbonyl-3-nitrobenzoate | 0.88 g | CN(C(=O)C1=C(C(=O)OCC=C)C=CC=C1[N+](=O)[O-])C | C13H14N2O5
